US05905071
13b N-[2-(N-Carbobenzoxy-L-valyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide and N-carbobenzoxy-L-valine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C38H75N3O6
reactant | N-carbobenzoxy-L-valine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
product | N-[2-(N-Carbobenzoxy-L-valyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C51H90N4O9
